US06458780B1
Aluminum chloride (16.0 g) was added to a solution of 12.1 ml of propionyl chloride in 100 ml of carbon disulfide. A solution of 2.48 g of imidazo[5,1-b]thiazole in 100 ml of dichloromethane was added dropwise thereto. The mixture was stirred at room temperature for 18 hr. Propionyl chloride (12.1 ml) and 16.0 g of aluminum chloride were further added thereto, followed by stirring for 24 hr. The reaction solution was poured into 100 g of ice. Dichloromethane (200 ml) was added thereto. Sodium carbonate (100 g) and sodium sulfate (100 g) were added in that order to the mixture with stirring. The insolubles were removed by filtration and washed with dichloromethane. The filtrate was concentrated under the reduced pressure. Ethyl acetate (10 ml) was added to the concentrate. The crystals thus formed were collected by filtration. The filtrate was purified by column chromatography on silica gel (dichloromethane: ethyl acetate=1:1), and then combined with the collected crystals to obtain 2.49 g of 7-propionylimidazo[5,1-b]thiazole.

reactant | Aluminum chloride | 16.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | propionyl chloride | 12.1 ml | C(CC)(=O)Cl | C3H5ClO
reactant | imidazo[5,1-b]thiazole | 2.48 g | S1C=2N(C=C1)C=NC2 | C5H4N2S
reactant | Propionyl chloride | 12.1 ml | C(CC)(=O)Cl | C3H5ClO
reactant | aluminum chloride | 16.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Sodium carbonate | 100 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium sulfate | 100 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 7-propionylimidazo[5,1-b]thiazole | 2.49 g | C(CC)(=O)C=1N=CN2C1SC=C2 | C8H8N2OS
